### PR TITLE
[Merged by Bors] - Feat(RingTheory/Flat): add localization of flat module is flat

### PR DESCRIPTION
**Pull request by judithludwig**
add that localization of a flat module is flat.

Co-authored-by: Florent Schaffhauser and Andrew Yang

This contribution was created as part of the AIM workshop "Formalizing algebraic geometry" in
June 2024.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
Can you provide a version with `IsLocalizedModule`? Should be straightforward.

**Comment by riccardobrasca** [comment]
Taking into account the comment about `IsLocalizedModule` LGTM, thanks!

bors d+

**Comment by judithludwig** [comment]
I've added a version for `IsLocalizedModule`. Could you check the naming of the theorems, and comment on which universes the variables should live in (line 153). Thanks

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 1]
```diff
@@ -149,9 +150,9 @@ end BaseChange
...
 section Localization
 
-variable (R : Type u) (S : Type v) (M : Type w)
-  [CommRing R] [CommRing S] [Algebra R S]
-  [AddCommGroup M] [Module R M]
+variable (R : Type u) (S : Type v) (M Mp: Type w) (Rp : Type v)
+  [CommRing R] [AddCommGroup M] [Module R M]  [CommRing Rp] [Module R M] [Algebra R Rp]
+  [AddCommGroup Mp] [Module R Mp] [Module Rp Mp] [IsScalarTower R Rp Mp] (f : M →ₗ[R] Mp)
 
 theorem isLocalizedModule_ofFlat [Module.Flat R M] (S : Submonoid R) : Module.Flat (Localization S)
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/Stability.lean:157]:
```suggestion
instance localizedModule [Module.Flat R M] (S : Submonoid R) : Module.Flat (Localization S)
```

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 2]
```diff
@@ -160,6 +161,11 @@ theorem isLocalizedModule_ofFlat [Module.Flat R M] (S : Submonoid R) : Module.Fl
   rw [← isLocalizedModule_iff_isBaseChange S]
   exact localizedModuleIsLocalizedModule S
 
+theorem IsLocalizedModule_ofFlat [Module.Flat R M] (S : Submonoid R) [IsLocalization S Rp]
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/Stability.lean:164]:
```suggestion
theorem of_isLocalizedModule [Module.Flat R M] (S : Submonoid R) [IsLocalization S Rp]
```

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 3]
```diff
@@ -149,9 +150,9 @@ end BaseChange
 
 section Localization
 
-variable (R : Type u) (S : Type v) (M : Type w)
-  [CommRing R] [CommRing S] [Algebra R S]
-  [AddCommGroup M] [Module R M]
+variable (R : Type u) (S : Type v) (M Mp: Type w) (Rp : Type v)
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/Stability.lean:153]:
```suggestion
variable {R : Type u} {M Mp : Type*} (Rp : Type v)
```
They shouldn't share the same universes. `S` seems to be unnecessary, and they can be implicit.

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 4]
```diff
@@ -160,6 +161,11 @@ theorem isLocalizedModule_ofFlat [Module.Flat R M] (S : Submonoid R) : Module.Fl
   rw [← isLocalizedModule_iff_isBaseChange S]
   exact localizedModuleIsLocalizedModule S
 
+theorem IsLocalizedModule_ofFlat [Module.Flat R M] (S : Submonoid R) [IsLocalization S Rp]
+    (f : M →ₗ[R] Mp) (h: IsLocalizedModule S f): Module.Flat Rp Mp := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/Stability.lean:165]:
```suggestion
    (f : M →ₗ[R] Mp) [h : IsLocalizedModule S f] : Module.Flat Rp Mp := by
```

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 5]
```diff
@@ -18,7 +20,8 @@ We show that flatness is stable under composition and base change.
                       then `M` is a flat `R`-module
 * `Module.Flat.baseChange`: if `M` is a flat `R`-module and `S` is any `R`-algebra,
                             then `S ⊗[R] M` is `S`-flat.
-
+* `Module.Flat.isLocalizedModule_ofFlat`: if `M` is a flat `R`-module and `S` is a submonoid of `R`
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/Stability.lean:23]:
```suggestion
* `Module.Flat.of_isLocalizedModule`: if `M` is a flat `R`-module and `S` is a submonoid of `R`
```

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 6]
```diff
@@ -145,4 +148,24 @@ theorem isBaseChange [Module.Flat R M] (N : Type t) [AddCommGroup N] [Module R N
 
 end BaseChange
 
+section Localization
+
+variable (R : Type u) (S : Type v) (M Mp: Type w) (Rp : Type v)
+  [CommRing R] [AddCommGroup M] [Module R M]  [CommRing Rp] [Module R M] [Algebra R Rp]
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/Stability.lean:154]:
```suggestion
  [CommRing R] [AddCommGroup M] [Module R M] [CommRing Rp] [Module R M] [Algebra R Rp]
```

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 7]
```diff
@@ -145,4 +148,24 @@ theorem isBaseChange [Module.Flat R M] (N : Type t) [AddCommGroup N] [Module R N
...
+  [AddCommGroup Mp] [Module R Mp] [Module Rp Mp] [IsScalarTower R Rp Mp] (f : M →ₗ[R] Mp)
+
+theorem isLocalizedModule_ofFlat [Module.Flat R M] (S : Submonoid R) : Module.Flat (Localization S)
+    (LocalizedModule S M) := by
+  fapply Module.Flat.isBaseChange (R:=R) (M:=M) (S:=Localization S)
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/Stability.lean:159]:
```suggestion
  fapply Module.Flat.isBaseChange (R := R) (M := M) (S := Localization S)
```

File: Mathlib/RingTheory/Flat/Stability.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/RingTheory/Flat/Stability.lean:23]: These results are stated as `R_p` flat. Can you make it clear in the docstring?
It's not hard to provide `R`-flatness as well (Use `isLocalizedModule_iff_isLocalization` and what you have here to get `R_p` flat over `R` and then use `Module.Flat.comp`) and it would be nice if you can do it in this PR but I'm also perfectly fine with it if it comes later.

Comment (judithludwig) [reply Mathlib/RingTheory/Flat/Stability.lean]: I don't think we have `R_p`is flat as an `R`-module, unless I'm missing something, so I'd rather postpone this.

Comment (erdOne) [reply Mathlib/RingTheory/Flat/Stability.lean]: `isLocalizedModule_iff_isLocalization` and the newly added `Module.Flat.of_isLocalizedModule` implies that `Rp` is flat over `R`.

**Review by erdOne — APPROVED** [review]

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
